US07842685B2
A slurry of 2-amino-2-(2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)ethyl)propane-1,3-diol hydrochloride (0.075 g, 0.15 mmol), N,N-diisopropylethylamine (0.065 mL, 0.37 mmol), and 1,1,1-triethoxyethane (0.041 mL, 0.22 mmol) in 0.75 mL DMF was heated in a sealed tube for 3 h. The brown solution was cooled and partitioned between EA/water, and the organic layer was washed with 1N aq. HCl, sat'd aq. NaHCO3, brine, and dried over sodium sulfate, filtered, and concentrated in vacuo. The HCl layer was neutralized with 1N aq NaOH and extracted with DCM, and the combined organics were dried, and concentrated in vacuo to give additional material, which was combined with the EA extract to give a brown oil. Purification by silica gel chromatography, 12 g, 0-10% MeOH/DCM provided an impure mixture. This was treated with 1.2 mL DCM and 1H-tetrazole 3 wt % solution in ACN (0.82 mL, 0.28 mmol) at 0° C. under nitrogen was added di-tert-butyl diisopropylphosphoramidite (0.087 mL, 0.28 mmol). The reaction mixture was allowed to warm to ambient temperature. After 1 h, the reaction mixture was cooled to 0° C. and treated with m-CPBA (77% by weight) (0.083 g, 0.37 mmol). The reaction mixture became immediately clear. After 30 min the reaction mixture was quenched with sat'd aq. NaHCO3 and EA. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo to a yellow oil. The oil was taken up in 2 mL EtOH and 0.5 mL conc HCl was added with rapid stirring at ambient temperature. The reaction was sealed and heated to 80° C. for 20 min and then cooled to ambient temperature. The solvent was removed and the resulting solid was taken up in MeOH and purified by HPLC, 5-100% ACN/TFA in H2O/TFA; The product-containing fractions were combined and concentrated in vacuo to give a white solid, which was sonicated briefly in MeOH, filtered, rinsing with MeOH followed by DCM. The resulting white solid was dried in vacuo to give (rac)-2-amino-4-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)-2-(hydroxymethyl)butyl dihydrogen phosphate MS (ESI) m/z: calculated: 543.1; Observed: 544.0 (M++1).

reactant | 2-amino-2-(2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)ethyl)propane-1,3-diol hydrochloride | 0.15 mmol, 0.075 g | Cl.NC(CO)(CO)CCC1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)F
reactant | N,N-diisopropylethylamine | 0.37 mmol, 0.065 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1,1,1-triethoxyethane | 0.22 mmol, 0.041 mL | C(C)OC(C)(OCC)OCC | C8H18O3
reactant | 1H-tetrazole | N1N=NN=C1 | CH2N4
reactant | ACN | 0.28 mmol, 0.82 mL | C(C)#N | C2H3N
reactant | di-tert-butyl diisopropylphosphoramidite | 0.28 mmol, 0.087 mL | C(C)(C)N(P(OC(C)(C)C)OC(C)(C)C)C(C)C | C14H32NO2P
reactant | m-CPBA | 0.37 mmol, 0.083 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DMF | 0.75 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
solvent | DCM | 1.2 mL | C(Cl)Cl | CH2Cl2
solvent | EA | CC(OCC)=O | C4H8O2
product | (rac)-2-amino-4-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)-2-(hydroxymethyl)butyl dihydrogen phosphate | P(=O)(OCC(CCC1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)F)(CO)N)(O)O | C26H27FN3O5PS
